US05210239
5-Bromo-2,4-diethoxy-3-methoxy-6-methylphenol
40 g of 2,4-diethoxy-3-methoxy-6-methylphenol prepared in Referential Example 6 was dissovled in 200 ml of chloroform, and 10 ml of bromine was added thereto and cooled by ice while stirring. Ice water was added to the reaction mixture, and the mixture was subjected to liquid-liquid separation. The organic phase was washed with saturated saline and dried over anhydrous magnesium sulfate, and the solvent was distilled off to prepare 54 g of the product compound as a light yellow oleaginous substance.

reactant | 2,4-diethoxy-3-methoxy-6-methylphenol | 40 g | C(C)OC1=C(C(=CC(=C1OC)OCC)C)O | C12H18O4
reactant | bromine | 10 ml | BrBr | Br2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Bromo-2,4-diethoxy-3-methoxy-6-methylphenol | BrC=1C(=C(C(=C(C1C)O)OCC)OC)OCC | C12H17BrO4
